data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_526328_2,[C:1]([N:3]([N:2]([C:6](=[C:8]([H:19])[H:20])[H:13])[O:9][H:10])[C:4]([N:5]([H:11])[H:12])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([N:3]([C:4]([N:5]([H:11])[H:12])=[C:7]([H:17])[H:18])[C:6]([N:2]=[O:9])([C:8]([H:10])([H:19])[H:20])[H:13])([H:14])([H:15])[H:16],60.99551000002094
MR_602822_1,[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[O:7]/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]/[C:3]([H:15])([H:16])[H:17])([H:9])([H:10])[H:11]>>[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[N:8]([C:3]([H:15])([H:16])[H:17])[C:6]([C:4]([H:18])([H:19])[H:20])=[O:7])([H:9])([H:10])[H:11],43.58803249999042
MR_303486_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([N:6]([H:10])[H:11])[H:8])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[H:12])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[H:12])[H:8])([N:6]([H:10])[H:11])[H:9],31.856919999967488
MR_360656_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])(/[C:6]([C:2]([C:5]([N:7]([H:11])[H:12])=[O:9])([H:14])[H:15])=[N:8]\[H:13])[H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([C:6](=[C:2]([H:14])[H:15])[N:8]([C:5]([N:7]([H:11])[H:12])=[O:9])[H:13])[H:10],61.14548249999899
MR_400017_0,[C:1](/[C:2]([N:3]([H:12])[H:13])=[C:4](/[O:7][H:10])[H:14])([O:5][H:8])([O:6][H:9])[H:11]>>[C:1]1([O:5][H:8])([H:11])[C:2]([N:3]([H:12])[H:13])([O:6][H:9])[C:4]1([O:7][H:10])[H:14],56.39154250001667
MR_305269_1,[N:1]([C:3]([O:6][H:10])=[O:8])([O:4][C:2]([O:5][H:9])=[O:7])[H:11]>>[N:1]1([H:11])[C:3]([O:6][H:10])([O:8][C:2]([O:5][H:9])=[O:7])[O:4]1,71.41389250000529
MR_196852_2,[C:1]([C:3](/[C:2]([O:6][H:8])=[N:7]/[N:4]([H:9])[H:10])=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[N:7]([N:4]([H:9])[H:10])[C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],51.55288999999854
MR_572131_1,[C:1](/[N:8]=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:3]([N:6]([H:11])[H:12])[O:7][N:5]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[N:3]([N:6]([H:11])[H:12])[C@:4]1([C:2]([H:16])([H:17])[H:18])[O:7][N:5]([H:9])[H:10])([H:13])([H:14])[H:15],31.14910000000677
MR_153231_0,[C:1]([N:2]([C:3](=[O:6])[H:8])/[C:4](=[N:5]/[H:7])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[C:3](/[O:6]/[C:4](=[N:5]/[H:7])[H:9])[H:8])([H:10])([H:11])[H:12],57.22737250001089
MR_631767_1,[C:1]1([O:6][H:8])([H:11])[N:2]([H:10])[C:3]([O:7][H:9])=[C:4]([H:12])[O:5]1>>[C:1]1([O:6][H:8])([H:11])[N:2]([H:10])[C:3]1([C:4](=[O:5])[H:12])[O:7][H:9],40.64066499997693
MR_159871_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C@@:2]([C:5]([O:7][H:9])=[O:8])([H:10])[O:6]1>>[C:1]([C:2](=[O:6])[H:10])([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:5]([O:7][H:9])=[O:8],51.8007525000148
MR_70297_1,[C:1]([C:2]([C:5]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:7][H:8])[H:12])([H:10])[H:11])(=[O:6])[H:9]>>[C:1]([C:2]([C:5](=[O:7])[H:12])([H:10])[H:11])([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:6][H:8])[H:9],69.83384749999956
MR_451918_1,[C:1]([C:4]1([C:3]([N:5]([H:11])[H:12])=[O:6])[N:2]([H:10])[N:7]1[N:8]([H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4]([N:2](/[N:7]=[N:8]/[H:13])[H:10])=[C:3](\[N:5]([H:11])[H:12])[O:6][H:9])([H:14])([H:15])[H:16],18.413987500021847
MR_480147_1,[C:1](/[C:4](=[C:3]([N:5]([H:9])[H:10])\[N:8]=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:6]([H:11])[H:12])[C:3]([N:5]([H:9])[H:10])=[N:8][C:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],31.423944999990567
MR_131542_2,[C:1](\[C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:14])[H:15])([O:8][H:12])[H:10])[H:11])(=[N:5]/[H:13])[O:7][H:9]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:14])[H:15])=[O:8])[H:11])([N:5]([H:12])[H:13])([O:7][H:9])[H:10],53.85204999997214
MR_515813_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:11])(/[N:7]=[C:4](\[O:6][C:2]([H:12])([H:13])[H:14])[H:10])[H:9]>>[C:1]1([C:3]([H:15])([H:16])[H:17])([H:9])[C:5]([O:6][C:2]([H:12])([H:13])[H:14])([H:11])[O:8][C:4]([H:10])=[N:7]1,65.49092000001394
MR_431980_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([O:6][O:7][H:9])=[O:8])[N:5]([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:10])[H:11])=[O:8])[O:6][O:7][H:9],64.83016249997007
MR_239573_0,[C:1]([O:5][O:4][C:3]([O:6][C:2]([H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10]>>[C:1]([O:5][C:3]([O:4][O:6][C:2]([H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10],67.08602500001732
MR_429399_1,[C:1](/[C:7](=[C:6](/[N:8]=[C:5](/[N:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])[H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:7]1([H:15])[C:5]([N:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])([H:13])[N:8]=[C:6]1[H:14])([H:16])([H:17])[H:18],36.80726749998897
